Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Presented to hospital following witnessed seizure
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
Mr. ___ is a ___ year old man with a past medical history of
HTN and hemorrhagic stroke in ___ of last year with subsequent
seizure disorder who presents today with seizure.

Since his stroke, he has had two other episodes of seizure. This
is his third episode. He was at ___ with his son for a
___ game. He went to the bathroom, and then when he came 
back
he was confused, per his son. He was using full sentences but
asking when the game was going to start, which didn't make sense
because the game had already started. He then had a generalized
tonic clonic seizure, lasting 5 minutes which per the son 
started
with a head turn to the left. Fingerstick was normal per report.

He was brought to the ___ ED, and he was noted to be
"post-ictal," somnolent and not following commands. He was
brought for chest x-ray and while there, he had a second 
seizure,
GTC, which per the son started with head turn to the right this
time. This one lasted 45 seconds. He was then administered 2mg 
IV
ativan, and loaded with dilantin (as he had not tolerated Keppra
in the past due to severe agitation).

He has not had any recent infection or sick contacts. No recent
travel. No new medications. He is compliant with his Lamictal.

Review of systems unable to be obtained due to altered mental
status.

About 2 hours after second seizure with ativan, and shortly 
after
dilantin load, patient became more arousable, see exam below.

PAST MEDICAL HISTORY:
- HTN
- HLD
- Hemorrhagic stroke
- Seizure disorder

MEDICATIONS:
- Lamictal 50mg BID
- Lisinopril 5mg daily
- HCTZ 25mg daily
- Pravastatin - dose uncertain ?50mg daily
- Tylenol ___ prn arthritis pain

Allergies: NKDA, Keppra --> agitation     

Social Hx: ___
Family Hx: Noncontributory

 
Past Medical History:
PAST MEDICAL HISTORY:
- HTN
- HLD
- Hemorrhagic stroke
- Seizure disorder

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
**********
Physical Exam:
Vitals: 97.3 76 124/108 19 98% RA
General: Unresponsive.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Eyes closed, does not respond to voice. Gets
somewhat agitated with noxious stimuli but does not open eyes.
Does not follow commands.

ON REPEAT EXAM:
Somnolent but arousable. EOMI with gaze to both sides.
Consistently following simple commands.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. Does not blink to threat
III, IV, VI: VOR intact. On repeat exam, EOMI with no nystagmus
s/p dilantin load.
V: Responds to light touch bilateral face.
VII: No facial droop, facial musculature symmetric.
VIII: Unable to test.
IX, X: Unable to test.
XI: Unable to test.
XII: Unable to test.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted. Withdraws left arm and leg briskly to noxious
stimuli, withdraws right side more slowly.

ON REPEAT EXAM:
Full strength throughout

-Sensory: Withdraws to nox as above.

-DTRs: 2+ throughout. Plantar response was extensor bilaterally.

-Coordination: No nystagmus

Exam on Discharge- Changed as below.
- Mental status returned to baseline.  Conversant, pleasant.  
Able to provide his own history.  Poor Short term memory.
 
Pertinent Results:
___ 07:00PM   WBC-7.8 RBC-4.85 HGB-16.1 HCT-47.8 MCV-99* 
MCH-33.1* MCHC-33.6 RDW-12.7
___ 07:00PM   PLT COUNT-262
___ 07:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:00PM   GLUCOSE-171* UREA N-21* CREAT-1.3* SODIUM-139 
POTASSIUM-4.5 CHLORIDE-97 TOTAL CO2-17* ANION GAP-30*
___ 07:18PM   LACTATE-13.5*
 
Brief Hospital Course:
# Seizure
- Patient was transported to hospital following Witness Tonic 
Clonic Seizure.  He has another episode in the ED (lasting 45 
sec) and recieved Ativan and was loaded with Dilantin.  His 
labwork and Head CT did not note any possible acute inciting 
cause for this event and it was felt to be likely ___ to his 
previous stroke.  His Lamictal was increased to 75mg PO BID and 
he was maintained on Dilantin 100mg TID.  He subsquently did 
well and was safe for d/c.  On his discharge he was sent with 
instruction to gradually increase his Lamictal dosing according 
to the following schedule: 
- Lamictal 75mg BID through ___
- Lamictal 100mg BID through ___
- Lamictal 150mg BID ongoing.
His d/c Dilantin was 100mg TID ___.  Though this must be 
guided by his outpatient neurologist, the plan on discharge was 
to continue dilantin while patient was uptitrating on Lamictal.  
WHen he was on Lamictal 150mg PO BID and seizure free, he can 
likely be tapered off Dilantin.

 
 
Medications on Admission:
- Lamictal 50mg BID
- Lisinopril 5mg daily
- HCTZ 25mg daily
- Pravastatin - dose uncertain ?50mg daily
- Tylenol ___ prn arthritis pain

 
Discharge Medications:
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. LaMOTrigine 75 mg PO BID Duration: 1 Week 
will increase dose to 100mg twice daily on ___ 
RX *lamotrigine 25 mg 3 tablet(s) by mouth twice a day Disp #*36 
Tablet Refills:*0
4. LaMOTrigine 100 mg PO BID Duration: 1 Week 
will take from ___ through ___ then will increase to goal 150mg 
twice daily 
RX *lamotrigine 100 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0
5. LaMOTrigine 150 mg PO BID 
this will be the ongoing dose as of ___. 
RX *lamotrigine 150 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
6. Phenytoin Sodium Extended 300 mg PO DAILY 
RX *phenytoin sodium extended 300 mg 1 capsule(s) by mouth daily 
Disp #*30 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
- Epilepsy secondary to previous hemorrhagic stroke 
 
Secondary: 
- Prior Hemorrhagic Stroke  

 
Discharge Condition:
Mental Status: Clear and coherent but with poor short term 
memory.  Able to provide his own history.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized after having witnessed seizures first at 
___ and then while in the emergency department at ___ 
___. In the hospital, you underwent 
head imaging and lab evaluation which did not demonstrate a new 
cause for your seizure. You were started on a second 
anti-seizure medication, Dilantin (also known as phenytoin) to 
help control the seizures short term. It will likely be possible 
to increase your Lamictal dose so you will only need to take 
Lamictal, and eventually stop taking the Dilantin. 
 

 
You should follow up with your neurologist, ___, MD, 
who we have made attempts to contact as to our plan for seizure 
prophylaxis. 

 
Followup Instructions:
___